US07981874B2
1-Benzyl-4-phenyl-1,4-azaphosphinane 4-oxide.
Phenyl(divinyl)phosphine oxide (1.47 g, 8.25 mmol) and benzylamine (901 μL, 8.25 mmol) were combined in water (20 mL) and stirred at 90° C. for 1 h. A second portion of benzylamine (901 mL, 8.25 mmol) was added, and the reaction was stirred at 90° C. for an additional 1 h. The solution was cooled and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried (MgSO4), and evaporated. The crude residue was purified by flash chromatography (0-10% MeOH/CH2Cl2) to afford the desired product as a colorless solid. 1H NMR (CDCl3, 600 MHz) δ 7.79-7.73 (m, 2H), 7.55-7.46 (m, 3H), 7.35-7.30 (m, 4H), 7.27-7.23 (m, 1H), 3.63 (m, 2H), 3.04-2.89 (m, 4H), 2.21-2.14 (m, 2H), 2.08-1.99 (m, 2H). MS: cal'd 286 (MH+), exp 286 (MH+).

reactant | Phenyl(divinyl)phosphine oxide | 8.25 mmol, 1.47 g | C1(=CC=CC=C1)P(C=C)(C=C)=O | C10H11OP
reactant | benzylamine | 8.25 mmol, 901 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | benzylamine | 8.25 mmol, 901 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 20 mL | O | H2O
product | 1-Benzyl-4-phenyl-1,4-azaphosphinane 4-oxide | C(C1=CC=CC=C1)N1CCP(CC1)(C1=CC=CC=C1)=O | C17H20NOP
